US07947677B2
Step B. tert-Butyl 4-oxo-2a-(2-oxoethyl)-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-carboxylate, Enantiomer A
To a stirred solution of tert-butyl 2a-(2-ethoxy-2-oxoethyl)-4-oxo-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-carboxylate, enantiomer A, from Step A (219 mg, 0.607 mmol) in CH2Cl2 (5 mL) at −78° C. was added DIBAL-H (1 M in CH2Cl2, 0.8 mL, 0.8 mmol) dropwise. After 1 h, DIBAL-H (1 M in CH2Cl2, 0.54 mL, 0.54 mmol) was added dropwise, and after an additional 1 h, more DIBAL-H (1 M in CH2Cl2, 0.65 mL, 0.65 mmol) was added dropwise. The mixture was stirred at −78° C. for 1 h, then quenched by addition of cold MeOH (1 mmol), then acetone (1 mL), then saturated aqueous potassium sodium tartrate (10 mL). The mixture was allowed to warm to ambient temperature and was extracted with CH2Cl2 (3×20 mL). The combined organic extracts were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound in sufficient purity for use in the next step. MS: m/z=317 (M+1).

reactant | tert-butyl 2a-(2-ethoxy-2-oxoethyl)-4-oxo-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-carboxylate | C(C)OC(CC12CC(NC=3C=CC=C(C13)N(C2)C(=O)OC(C)(C)C)=O)=O | C19H24N2O5
reactant | DIBAL-H | 0.8 mmol, 1 M, 0.8 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 0.54 mmol, 1 M, 0.54 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 0.65 mmol, 1 M, 0.65 mL | CC(C)C[AlH]CC(C)C
reactant | MeOH | 1 mmol | CO | CH4O
reactant | potassium sodium tartrate | 10 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | tert-Butyl 4-oxo-2a-(2-oxoethyl)-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-carboxylate | O=C1NC=2C=CC=C3C2C(C1)(CN3C(=O)OC(C)(C)C)CC=O | C17H20N2O4
